*
* Diode Sim Model Produced by Altium Ltd
* Date:  24-Mar-2003
*
* Manufacturer: Philips
* Component Name: BZX79B68
*
* This macromodel models the effect of carrier recombination-generation
* and high-level injection on the diode.
*
*Note: This macromodel derived from data sheets and pspice models obtained from Philips Semiconductor.

.SUBCKT BZX79B68 10 30

*These components model forward-biased conditions
D1 10 20 DIDEAL
D2 10 20 DRECOMB
D3 20 30 DHIGH

*These components model reversed-biased conditions
D4 30 60 DPARASITIC
RZ 50 60 2.5e-5
Vbrk 50 10 68

* Subcircuit models
*+  BV =  6.948
*+  IBV =  8.62E-01
.MODEL DIDEAL D
+(
+  IS =  2.471E-09
+  N =  2.088
+  TT =  0.00000014
+  CJO =  34E-12
+  VJ =  0.7022
+  M =  0.3487
+)

.MODEL DHIGH D
+(
+  IS =  5.634896755
+  N =  2.088
+  RS =  0.001
+)

.MODEL DRECOMB D
+(
+  IS =  0.5E-09
+  N =  2.083534589
+)

.MODEL DPARASITIC D
+(
+	N = 0.001
+	RS = 0.001
+	CJO = 0.001P
+)

.ENDS BZX79B68
